US06521666B1
A mixture of N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester (0.25 g) and Lawesson's reagent (2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disufide; 0.21 g) in xylene (10 mL) was refluxed overnight. The mixture was cooled to about 50° C. and water (15 mL) was added and refluxed for 2 h. The mixture was stirred at room temperature overnight and evaporated. The residue was partitioned between EtOAc and water. The EtOAc layer was washed with water, dried and evaporated to yield 0.25 g of N-(2,6-dichlorothiobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester. ESMS: m/z 504 (MH+).

reactant | N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 0.25 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OC)=O | C25H23Cl2NO5
reactant | Lawesson's reagent | 0.21 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | water | 15 mL | O | H2O
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-(2,6-dichlorothiobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 0.25 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=S)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OC)=O | C25H23Cl2NO4S
